US07495122B2
With 1.0 g of WDM-3 obtained by Example No. 1 was mixed 5.0 g of deuterated methyl methacrylate (MMA-d8), and 1 mg of dimethyl 2,2′-azobis(2-methylpropionate) (manufactured by Wako Pure Chemical Industries, Ltd.; trade name “V-601”) and 1.5 mg of laurylmercaptan were added thereto, followed by polymerization for six hours under vacuum at 70° C. After the polymerization was completed, methanol was added to the reaction solution to give precipitates. The precipitates were separated from the solution by filtration and dried under reduced pressure to give 5.7 g of deuterated poly (norbornyl methacrylate/methyl methacrylate) as white powder. The obtained polymer had a weight-average molecular weight of 99,000 and a molecular weight distribution of 2.0. And the obtained polymer had a glass transition temperature of 115° C.

reactant | dimethyl 2,2′-azobis(2-methylpropionate) | 1 mg | N(=NC(C(=O)OC)(C)C)C(C(=O)OC)(C)C | C10H18N2O4
reactant | laurylmercaptan | 1.5 mg | C(CCCCCCCCCCC)S | C12H26S
solvent | methanol | CO | CH4O
product | norbornyl methacrylate methyl methacrylate | C(C(=C)C)(=O)OC12CCC(CC1)C2.C(C(=C)C)(=O)OC | InChI=1S/C11H16O2.C5H8O2/c1-8(2)10(12)13-11-5-3-9(7-11)4-6-11;1-4(2)5(6)7-3/h9H,1,3-7H2,2H3;1H2,2-3H3
